US04666915
Ethyl 1,6-dihydro-2-(2-fluoroanilino)-6-oxo-5-pyrimidinecarboxylate (5 g) and sodium hydroxide (2 g) are added to water (100 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the reaction mixture is acidified with acetic aicd, and the resulting solid is collected by filtration and recrystallized from DMF. The precipitate is collected by filtration and added to water (70 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the resulting product is collected by filtration and dried at 80° C. under reduced pressure to give 1,6-dihydro-2-(2-fluoroanilino)-6-oxo-5-pyrimidinecarboxylic acid (3.1 g). M.p. 300° C.

reactant | Ethyl 1,6-dihydro-2-(2-fluoroanilino)-6-oxo-5-pyrimidinecarboxylate | 5 g | FC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C13H12FN3O3
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | acetic aicd | C(C)(=O)O | C2H4O2
product | 1,6-dihydro-2-(2-fluoroanilino)-6-oxo-5-pyrimidinecarboxylic acid | 3.1 g | FC1=C(NC=2NC(C(=CN2)C(=O)O)=O)C=CC=C1 | C11H8FN3O3
